US05082951
A mixture of manganese(II) acetate tetrahydrate (343 mg, 1.40 mmol), silver nitrate (23.8 mg, 0.140 mmol), sodium acetate (420 mg, 5 mmol), acetic anhydride (542 mg, 4.20 mmol) and sodium persulfate (333 mg, 1.4 mmol) in acetic acid (8 mL) was stirred at 80° C. for 30 minutes. To this mixture was added a solution of 2-benzoyl-1-[3,3-di(ethoxycarbonyl)propyl]pyrrole (500 mg, 1.40 mmol) in acetic acid (2 mL). To the reaction mixture was then added additional sodium persulfate (333 mg, 1.4 mmol). The resulting mixture was stirred at 80° C. for 12 hours, cooled, poured into water (25 mL), and extracted with toluene (3×25 mL). The combined toluene extracts were washed with water (25 mL) and concentrated under reduced pressure, providing 475 mg (95%) of diethyl 5-benzoyl-2,3-dihydro-1H-pyrrolizine-1,1-dicarboxylate.

reactant | sodium acetate | 5 mmol, 420 mg | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 4.20 mmol, 542 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium persulfate | 1.4 mmol, 333 mg | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+]
reactant | 2-benzoyl-1-[3,3-di(ethoxycarbonyl)propyl]pyrrole | 1.40 mmol, 500 mg | C(C1=CC=CC=C1)(=O)C=1N(C=CC1)CCC(C(=O)OCC)C(=O)OCC | C20H23NO5
reactant | sodium persulfate | 1.4 mmol, 333 mg | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+]
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
catalyst | manganese(II) acetate tetrahydrate | 1.40 mmol, 343 mg | O.O.O.O.C(C)(=O)[O-].[Mn+2].C(C)(=O)[O-]
catalyst | silver nitrate | 0.140 mmol, 23.8 mg | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 25 mL | O | H2O
product | diethyl 5-benzoyl-2,3-dihydro-1H-pyrrolizine-1,1-dicarboxylate | 475 mg, 95% | C(C1=CC=CC=C1)(=O)C=1N2CCC(C2=CC1)(C(=O)OCC)C(=O)OCC | C20H21NO5
